US07531532B2
Morpholine-4-carboxylic acid {4-[3-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}amide
To a solution of 1-[4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]-3-(2-phenylacetyl)thiourea (270 mg) in tetrahydrofuran (12 ml) was added triethylamine (0.142 ml), and then phenyl chloroformate (0.160 ml) was added while stirring in an ice bath, followed by stirring under a nitrogen atmosphere for 30 min. A portion of the solution (4.0 ml) was concentrated under a reduced pressure, and then N,N-dimethylformamide (1.5 ml) and morpholine (0.989 ml, 1.14 mmol) were added thereto, followed by stirring at room temperature for 5 hrs. The reaction mixture was partitioned between ethyl acetate (40 ml) and water (40 ml). The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:1, ethyl acetate, then ethyl acetate:methanol=10:1). Fractions containing the target compound were concentrated to give a solid, which was suspended in diethyl ether. The solid was filtered off, washed with diethyl ether, and dried under aeration to provide the titled compound (42 mg) as pale brown powder.

reactant | 1-[4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]-3-(2-phenylacetyl)thiourea | 270 mg | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=S)NC(CC1=CC=CC=C1)=O)F | C20H17FN4O2S
reactant | triethylamine | 0.142 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.160 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | morpholine | 1.14 mmol, 0.989 ml | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | Morpholine-4-carboxylic acid {4-[3-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}amide | 42 mg | FC=1C=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=CC1NC(=S)NC(CC1=CC=CC=C1)=O | C25H24FN5O4S
